US07060827B2
In a manner analogous to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 3-pyridylmethylamine (162 mg, 1.5 mmol) and 2,4-dichloro-5-fluoropyrimidine (50 mg, 0.3 mmol) were reacted to give 2-chloro-5-fluoro-N4-(3-pyridylmethyl)-4-pyrimidineamine. Then 2-chloro-5-fluoro-N4-(3-pyridylmethyl)-4-pyrimidineamine and 3-aminophenol (200 mg, 1.83 mmol) reacted to give 5-fluoro-N2-(3-hydroxyphenyl)-N4-(3-pyridylmethyl)-2,4-pyrimidinediamine (40 mg, 43%). 1H NMR (CD3OD): δ 4.71 (s, 2H), 6.38 (ddd, J=0.9, 2.4 and 8.1 Hz, 1H), 6.88 (ddd, J=0.9, 2.1 and 8.1 Hz, 1H), 7.00 (t, J=8.1 Hz, 1H), 7.14 (t, J=2.4 Hz, 1H), 7.37 (dd, J=4.8 and 7.8 Hz, 1H), 7.73 (d, J=3.6 Hz, 1H), 7.87 (dt, J=2.1 and 7.5 Hz, 1H), 8.39 (dd, J=1.2 and 7.8 Hz, 1H), 8.57 (d, J=2.1 Hz, 1H); 19F NMR (282 MHz, CD3OD): δ −170.99; LCMS: ret. time: 8.82 min.; purity: 92.90%; MS (m/e): 312.05 (MH+).

reactant | 2-chloro-5-fluoro-N4-(3-pyridylmethyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NCC=1C=NC=CC1)F | C10H8ClFN4
reactant | 3-aminophenol | 1.83 mmol, 200 mg | NC=1C=C(C=CC1)O | C6H7NO
product | 5-fluoro-N2-(3-hydroxyphenyl)-N4-(3-pyridylmethyl)-2,4-pyrimidinediamine | 40 mg, 43% | FC=1C(=NC(=NC1)NC1=CC(=CC=C1)O)NCC=1C=NC=CC1 | C16H14FN5O
